US05128351
N-[3-(Bromomethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea
A mixture of 10.0 g of N-[3-(hydroxymethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea, 70 ml of hydrogen bromide in acetic acid and 40 ml of chloroform is refluxed for 2.5 hours, then cooled. The solid is collected and washed with carbon tetrachloride and two times with water. The collected solid is crystallized from ethyl alcohol:tetrahydrofuran followed by recrystallization from tetrahydrofuran to give 7.4 g of the desired product as a white powder, m.p. 164°-169° C.

reactant | N-[3-(hydroxymethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea | 10.0 g | OCC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C28H42N2O3
reactant | hydrogen bromide | 70 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(Bromomethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea | 7.4 g | BrCC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C28H41BrN2O2
